US04353910
t-BOC THIP (7.2 g) was refluxed with acetic acid anhydride (5.0 g) in 50 ml of CHCl3 for 2 hours. 2-Acetyl-6-(t-butyloxycarbonyl)-4,5,6,7-tetrahydroisoxazolo[5,4-c]pyridine-3-one was isolated as an oil in 6.4 g (76%) yield by column chromatography (Silicagel 60 "Merck") (eluted with ether/CH2Cl2 (1:3)). The t-BOC group was split off as above, yielding 73% of the oxalate. M.P. 177°-178° C. (dec.) (Found: C 44.32; H 4.70; N (10.58); C10H12N2O7 requires C 44.12; H 4.45; N 10.29%).

reactant | 3-Hydroxy-6-(t-butyloxycarbonyl)-4,5,6,7-tetrahydroisoxazolo[5,4-c]pyridine | 7.2 g | OC1=NOC=2CN(CCC21)C(=O)OC(C)(C)C | C11H16N2O4
reactant | acetic acid anhydride | 5.0 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | CHCl3 | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-Acetyl-6-(t-butyloxycarbonyl)-4,5,6,7-tetrahydroisoxazolo[5,4-c]pyridine-3-one | C(C)(=O)N1OC=2CN(CCC2C1=O)C(=O)OC(C)(C)C | C13H18N2O5
